US09107415B2
To a degassed solution of rac-2,2-dimethylpropionic acid 2-(4-bromo-2,6-dimethylphenyl)-3-oxo-4-(tetrahydropyran-4-ylmethyl)cyclopent-1-enyl ester (0.20 g, 0.43 mmol) in toluene (4 ml) under a nitrogen atmosphere is added tributyl(1-propynyl)tin (0.39 ml, 1.29 mmol) and tetrakistriphenylphosphine palladium(0) (0.10 g, 0.086 mmol). The reaction mixture is then heated at 130°C. under microwave irradiation for 45 minutes, followed by quenching with distilled water (20 ml) and extraction with ethyl acetate (50 ml×2). The combined organic fractions are washed with water, brine, dried over sodium sulphate, filtered and the filtrate is concentrated in vacuo. The residue is then dissolved in methanol (1.0 ml) and 2N sodium hydroxide solution (0.5 ml) is added followed by stirring at 25°C. for 3 hours. The solvent is evaporated in vacuo and the crude product is diluted with distilled water, acidified with 2N hydrochloric acid then extracted with ethyl acetate (50 ml×3). The combined organic fractions are washed with water, brine, dried over sodium sulphate, filtered and the filtrate is concentrated in vacuo to afford rac-2-(2,6-dimethyl-4-prop-1-ynylphenyl)-4-(tetrahydropyran-4-ylmethyl)cyclopentane-1,3-dione.

reactant | rac-2,2-dimethylpropionic acid 2-(4-bromo-2,6-dimethylphenyl)-3-oxo-4-(tetrahydropyran-4-ylmethyl)cyclopent-1-enyl ester | 0.43 mmol, 0.20 g | BrC1=CC(=C(C(=C1)C)C1=C(CC(C1=O)CC1CCOCC1)OC(C(C)(C)C)=O)C | C24H31BrO4
reactant | tributyl(1-propynyl)tin | 1.29 mmol, 0.39 ml | C(CCC)[Sn](C#CC)(CCCC)CCCC
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | rac-2-(2,6-dimethyl-4-prop-1-ynylphenyl)-4-(tetrahydropyran-4-ylmethyl)cyclopentane-1,3-dione | CC1=C(C(=CC(=C1)C#CC)C)C1C(CC(C1=O)CC1CCOCC1)=O | C22H26O3
